US07053117B2
2-Amino-3-cyano-4-phenyl-4-H-chromene
To a solution of t-butylnitrite (0.027 g, 0.26 mmol) in anhydrous DMF was added 2,7-diamino-3-cyano-4-phenyl-4H-chromene (53 mg, 0.201 mmol) in one portion. The reaction was immediately immersed into a 65° C. oil bath. Gas evolution occurred slowly. After stirring at 65° C. for 1.5 h, the reaction was quenched with addition of water (5 mL), and extracted with EtOAc (3×10 mL). The EtOAc extracts were washed with brine (2×5 mL), dried over MgSO4, and evaporated. The red residue was purified by chromatography on silica gel with EtOAc and hexane (1:2) as eluant to yield 6 mg (12%) of the title compound as a light yellow solid. 1H NMR (CD3Cl, 300 MHz): 7.35–7.17 (m, 6H), 7.06–6.96 (m, 3H), 4.75 (s, 1H), 4.61 (brs, 2H).

reactant | t-butylnitrite | 0.26 mmol, 0.027 g | C(C)(C)(C)ON=O | C4H9NO2
reactant | 2,7-diamino-3-cyano-4-phenyl-4H-chromene | 0.201 mmol, 53 mg | NC=1OC2=CC(=CC=C2C(C1C#N)C1=CC=CC=C1)N | C16H13N3O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Amino-3-cyano-4-phenyl-4-H-chromene | 6 mg, 12% | NC=1OC2=CC=CC=C2C(C1C#N)C1=CC=CC=C1 | C16H12N2O
